US06689922B1
5-{2-[3-(6-Hydroxy-6-methylheptyl)phenyl]ethyl)benzene-1,3-diol
In a manner similar to Example 9(a), by reacting 600 mg (1.76 mmol) of 5-{2-[3-(6-hydroxy-6-methylheptyl)phenyl]vinyl}benzene-1,3-diol with 60 mg of 10% palladium/carbon, pinkish crystals (m=368 mg; Y=61%) are obtained. m.p.=102-3° C.

reactant | 5-{2-[3-(6-hydroxy-6-methylheptyl)phenyl]vinyl}benzene-1,3-diol | 1.76 mmol, 600 mg | OC(CCCCCC=1C=C(C=CC1)C=CC=1C=C(C=C(C1)O)O)(C)C | C22H28O3
catalyst | palladium/carbon | 60 mg | [Pd] | Pd
product | 5-{2-[3-(6-Hydroxy-6-methylheptyl)phenyl]ethyl)benzene-1,3-diol | OC(CCCCCC=1C=C(C=CC1)CCC=1C=C(C=C(C1)O)O)(C)C | C22H30O3
